Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][C:14]([H:15])([H:16])[H:17]>>[C:10]([H:11])([H:12])[O:13][C:14]([H:15])([H:16])[H:17].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[H:9],1.0733672484
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][C:10][C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][C:10]=[C:11]([H:12])[H:13],3.1974268678099995
[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2](=[C:3]=[C:4]([H:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:6],1.67532479666
[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12][H:13].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12][H:13],-3.74810669781
[C:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1]#[C:2][C:3][C:10]([H:11])[H:12].[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:13],1.82405736926
[H:1][O:2][C@:3]([H:4])([C:5][O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])([H:9])[H:10],2.5943217697
[C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13].[O:1]>>[O:1]=[C:2]([H:3])[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13],-5.80058992561
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:5],4.820207761
[H:1][C:2]([H:3])[C:5]([H:6])([H:7])[C:8][C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:4][C:9]([H:10])[H:11]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-3.98515494847
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11][C:12]([H:13])([H:14])[H:15]>>[C:7]([H:8])([H:9])[O:10][C:11][C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])=[C:4]([H:5])[H:6],1.30295001453
[H:1][O:2]/[C:3](=[C:4]\[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[H:8],2.38718848208
[H:1][O:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[H:11].[H:1][O:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])[H:10],4.75917162259
[H:1][C:2]=[C:3]([H:4])[C:5]([O:6][H:7])=[O:8].[H:9]>>[H:1][C:2][C:3]([H:4])=[C:5]([O:6][H:7])[O:8][H:9],-1.21975631109
[H:1][C:2]1[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]1([H:10])[H:11]>>[H:1][C:2](=[C:3]([H:4])[H:5])[C:9]([C:6]([H:7])[H:8])([H:10])[H:11],0.02495896855
[H:10].[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][O:7][C:8]([H:9])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.34551347853
[C:4]([H:5])=[C:6]([H:7])[O:8][H:9].[H:1][C:2]#[C:3][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]=[C:3](/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13],-2.02112779428
[C:7]([H:8])([H:9])[H:10].[O:1][O:2][C:3][C:4]([H:5])[H:6]>>[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10],-1.86010638502
[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])=[C:9]=[O:10].[H:8]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]=[O:10],-2.49441561015
[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([O:8])[C:10]([H:11])=[C:12]([H:13])[H:14].[H:9],4.66442456304
[C:7]([H:8])#[C:9][O:10][H:11].[H:1][C:2][O:3][C:4]([H:5])[H:6]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[O:10][H:11],-1.67952102879
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C@@:11]1([H:12])[C:13][O:14]1>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]=[O:14],-2.57541484079
[H:1][O:2]/[C:3]([C:4]([H:5])[H:6])=[C:7](/[H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[C:7]([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]=[C:4]([H:5])[H:6],4.40464327682
[C:1]#[C:2][O:3][C:4][H:5].[C:6][H:7]>>[C:1]#[C:2][O:3][C:4]([H:5])=[C:6][H:7],-7.86370797827
[H:11].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][H:11],-3.73490953809
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[O:8][H:9]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])[O:8][H:9].[H:7],4.12900935077
[H:6].[O:1]=[C:2][O:3][C:4]#[C:5][C:7]([H:8])([H:9])[H:10]>>[O:1]=[C:2][O:3]/[C:4]=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10],-2.25704254233
[C:2](#[C:3][O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1]>>[H:1]/[C:2](=[C:3]\[O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-2.29183041555
[H:1]/[C:2](=[C:3](/[H:4])[C:5][O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2](/[C:3]([H:4])=[C:5]1\[O:6][C:7]1([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-1.85377154054
